US08053440B2
2-[4-(5-amino-2,4-dimethoxy-[1,6]naphthyridin-7-yl)-2,6-dimethylphenoxyl]-ethanol (0.302 g, 0.82 mmol) in water (5 mL) and conc. Hydrochloric acid (3 mL) were mixed with stirring. The reaction mixture was cooled to 0° C. and a solution of sodium nitrite (0.305 g, 4.42 mmol) in water (3 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 40 min. To the reaction mixture was added 1 N hydrochloric acid (10 mL) and heated at 55° C. for 50 min and then stirred at room temperature overnight. The reaction mixture was extracted with dichloromethane and the aqueous layer was basified with aqueous 5% NaOH and saturated NaHCO3 solution. Water was evaporated and the organic compound was washed with a dichloromethane/methanol solution and concentrated to leave a crude which was purified by silica gel (50 g) column chromatography, employing 50% ethyl acetate in hexane and hexane/ethyl acetate/methanol (3:2:1) as eluent, to obtain 7-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-2,4-dimethoxy-1,6-naphthyridin-5(6H)-one (0.080 g, 26%). Selected data: MS (ES) m/z: 371.1; MP 224.9-225.4° C.

reactant | 2-[4-(5-amino-2,4-dimethoxy-[1,6]naphthyridin-7-yl)-2,6-dimethylphenoxyl]-ethanol | 0.82 mmol, 0.302 g | NC1=C2C(=CC(=NC2=CC(=N1)C1=CC(=C(OCCO)C(=C1)C)C)OC)OC | C20H23N3O4
reactant | sodium nitrite | 4.42 mmol, 0.305 g | N(=O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | Hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | hydrochloric acid | 1 N, 10 mL | Cl | ClH
product | 7-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-2,4-dimethoxy-1,6-naphthyridin-5(6H)-one | 0.080 g, 26% | OCCOC1=C(C=C(C=C1C)C=1NC(C=2C(=CC(=NC2C1)OC)OC)=O)C | C20H22N2O5
